US04894458
Ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)acetate
A mixture of diethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)malonate (8.10 g) and p-toluenesulfonic acid (9.6 mg) in water (9.6 ml) was refluxed for 3 hours with stirring vigorously. After cooling, the reacting mixture was extracted with dichloromethane. The organic layer was washed with 7% aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resulting residue was allowed to stand in a refrigerator for 2 days, the resulting precipitate was collected by filtration and recrystallized from n-hexane to give the title compound (0.51 g) as colorless prisms, mp 38°-39° C.

reactant | diethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)malonate | 8.10 g | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1C)F)F | C15H15F3O5
reactant | p-toluenesulfonic acid | 9.6 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 9.6 ml | O | H2O
product | Ethyl 2-(2,4,5-trifluoro-3-methylbenzoyl)acetate | 0.51 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1C)F)F | C12H11F3O3
